US08058447B2
5-(Cyclobutylacetyl)-4-(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonitrile
A solution of 100 mg (0.49 mmol) of 5-fluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde in 5 ml of 2-propanol is mixed with 50.96 mg (0.49 mmol) of sodium 1-cyanoprop-1-en-2-olate, 92.90 mg (0.49 mmol) of 4-amino-1-cyclobutylpent-3-en-2-one and 0.04 ml (0.67 mmol) of acetic acid and stirred under reflux for 3 h. After cooling, the mixture is concentrated. The resulting residue is purified on an Analogix cartridge (F12M) (mobile phase: cyclohexane/ethyl acetate 2:1). 40.4 mg (20.5% of theory) of the title compound are obtained as yellow crystals.

reactant | 5-fluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.49 mmol, 100 mg | FC1=C2C(C=C(OC2=C(C=C1)C=O)C)=O | C11H7FO3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.49 mmol, 50.96 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 4-amino-1-cyclobutylpent-3-en-2-one | 0.49 mmol, 92.90 mg | NC(=CC(CC1CCC1)=O)C | C9H15NO
reactant | acetic acid | 0.67 mmol, 0.04 ml | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 5-(Cyclobutylacetyl)-4-(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonitrile | C1(CCC1)CC(=O)C=1C(C(=C(NC1C)C)C#N)C=1C=CC(=C2C(C=C(OC12)C)=O)F | C24H23FN2O3
